US04952578
To a suspension of 5-formamido-1-(2-hydroxyethyl)pyrazole (1 g) in acetonitrile (50 ml) was added dropwise chlorosulfonyl isocyanate (0.77 ml) at -15° C.~-20° C. The mixture was stirred for 3 hours under ice-cooling. To the reaction mixture was added water (1 ml) and kept to stand overnight. The solution was adjusted to pH 7.5 with 5N-sodium hydroxide solution and then adjusted to pH 8.5 with 1N-sodium hydroxide solution. The organic layer was separated and the aqueous layer was extracted with tetrahydrofuran. The extract and said organic layer were combined and dried over magnesium sulfate. The solvent was distilled off and the residue was crystallized from ethyl acetate to give 5-amino-1-(2-carbamoyloxyethyl)pyrazole (0.60 g).

reactant | 5-formamido-1-(2-hydroxyethyl)pyrazole | 1 g | C(=O)NC1=CC=NN1CCO | C6H9N3O2
reactant | chlorosulfonyl isocyanate | 0.77 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-amino-1-(2-carbamoyloxyethyl)pyrazole | 0.60 g | NC1=CC=NN1CCOC(N)=O | C6H10N4O2
